US05559111
b) N-Acetyl-4-(2-tert-butoxycarbonylaminoethyl)-piperidine
0.5 g of 4-(2-tert-butoxycarbonylaminoethyl)-piperidine and 0.61 ml of triethylamine are dissolved in 5 ml of dichloromethane and, at 0° C., 0.22 ml of acetyl chloride is added. The reaction mixture is stirred at room temperature for 7 hours and then washed with water. The organic phase is concentrated by evaporation and purified by FC (10 g of silica gel, ethyl acetate/methanol=9:1). The title compound is obtained: Re (ethyl acetate/methanol=9:1)=0.39.

reactant | 4-(2-tert-butoxycarbonylaminoethyl)-piperidine | 0.5 g | C(C)(C)(C)OC(=O)NCCC1CCNCC1 | C12H24N2O2
reactant | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.22 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-Acetyl-4-(2-tert-butoxycarbonylaminoethyl)-piperidine | C(C)(=O)N1CCC(CC1)CCNC(=O)OC(C)(C)C | C14H26N2O3
